US03957787
A. 1,2-Dihydro-2-imino-1-(o-bromophenethyl)pyrimidine
To a solution of 3.3 g of sodium methoxide in 120 ml of anhydrous methanol is added 10.8 g of 2-amino-1-(o-bromophenethyl)pyrimidinium bromide, prepared as described in example 1 (G). The solution is stirred under nitrogen for 2 hours and then heated under reflux for 5 hours. The solvent is removed in vacuo and the residue is treated with 200 ml of anhydrous ether. The ether solution is washed, dried, and concentrated in vacuo to give about 6.8 g of yellow solid. This is recrystallized from hexane to give the name product, mp about 97°-98°.

reactant | sodium methoxide | 3.3 g | C[O-].[Na+]
reactant | 2-amino-1-(o-bromophenethyl)pyrimidinium bromide | 10.8 g | [Br-].NC1=[N+](C=CC=N1)CCC1=C(C=CC=C1)Br
solvent | methanol | 120 ml | CO | CH4O
product | 1,2-Dihydro-2-imino-1-(o-bromophenethyl)pyrimidine | about 6.8 g | N=C1N(C=CC=N1)CCC1=C(C=CC=C1)Br | C12H12BrN3
